US07932271B2
N-[6-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-2-(pyridin-2-yl)acetamide
To a dichloromethane (5 ml) solution of 6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-ylamine (74 mg, 0.187 mmol) were added N-methylmorpholine (90 μl, 0.818 mmol), 1-hydroxybenzotriazole (11 mg, 0.313 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (60 mg, 0.312 mmol) and 2-pyridylacetic acid hydrochloride (54 mg, 0.312 mmol). The resulting mixture was stirred at room temperature for 24 hours. The reaction mixture was diluted with dichloromethane. The diluted solution was washed sequentially with water, a saturated aqueous solution of sodium bicarbonate and brine. The organic layer thus obtained was dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=4:1 eluate was concentrated under reduced pressure to give the title compound (48 mg, 0.0934 mmol, 50%) as a white amorphous substance.

reactant | 6-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-ylamine | 0.187 mmol, 74 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=CC(=N1)N)C1=C(C=CC(=C1)F)F | C18H13ClF2N2O2S
reactant | N-methylmorpholine | 0.818 mmol, 90 μl | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 0.313 mmol, 11 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.312 mmol, 60 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-pyridylacetic acid hydrochloride | 0.312 mmol, 54 mg | Cl.N1=C(C=CC=C1)CC(=O)O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | N-[6-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-2-(pyridin-2-yl)acetamide | 0.0934 mmol, 48 mg, 50% | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=CC(=N1)NC(CC1=NC=CC=C1)=O)C1=C(C=CC(=C1)F)F | C25H18ClF2N3O3S
